US06280519B1
2,2,4,4-tetramethyl pentanonitrile (TMPN);
isopropyl neononanoate; pivalonitrile; methyl 2,2,4,4-tetramethyl pentanoate (methyl neononanoate) and methyl-3,5,5-trimethyl hexanoate.

reactant | isopropyl neononanoate | C(CCCCC(C)(C)C)(=O)OC(C)C | C12H24O2
reactant | pivalonitrile | C(C(C)(C)C)#N | C5H9N
product | 2,2,4,4-tetramethyl pentanonitrile | CC(C#N)(CC(C)(C)C)C | C9H17N
